US09056874B2
(±)-2-(amino(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of a mixture of (±)-N-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)methyl)-2-methylpropane-2-sulfinamide and (±)-N-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)methyl)-2-methylpropane-2-sulfinamide (1 g, 1.36 mmol), HCl in methanol (1.25 M) (22 mL, 27 mmol) was added and the reaction stirred at 60° C. for 2 h. The reaction was then evaporated, basified with NH4OH (33% NH3 in H2O) and extracted with EtOAc. The organic extract was dried over MgSO4 filtered and concentrated to give the title compound without the need for further purification. MS (ESI+) m/z 502.2 (M+H).

reactant | (±)-N-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)methyl)-2-methylpropane-2-sulfinamide | C(#N)C=1C=CC2=C(N(C(=N2)C(NS(=O)C(C)(C)C)C2=C3C=CN(C3=C(C=C2SC)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C1 | C36H45N5O4S3Si
reactant | (±)-N-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)methyl)-2-methylpropane-2-sulfinamide | 1.36 mmol, 1 g | C(#N)C1=CC2=C(N(C(=N2)C(NS(=O)C(C)(C)C)C2=C3C=CN(C3=C(C=C2SC)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C=C1 | C36H45N5O4S3Si
reactant | HCl | Cl | ClH
reactant | methanol | 27 mmol, 1.25 M, 22 mL | CO | CH4O
product | (±)-2-(amino(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | NC(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CN(C1=C(C=C2SC)C)S(=O)(=O)C2=CC=C(C)C=C2 | C26H23N5O2S2
